US08791267B2
Synthesis of 5-(3′-Chloro-2-fluoro-6-methoxy-biphenyl-3-ylmethyl)-2-((2S,5S)-2,5-dimethyl-pyrrolidin-1-yl)-pyridine (P-577):
In an 8 mL vial equipped with a stir bar was placed 5-(3′Chloro-2-fluoro-6-methoxy-biphenyl-3-ylmethyl)-2-fluoro-pyridine (P-456, 100 mg, 0.289 mmol), (2S,5S)-2,5-dimethyl-pyrrolidine (176 mg, 1.30 mmol) and 1,8-diazabicyclo[5.4.0]undec-7-ene (367 uL, 2.60 mmol). The mixture was heated to 160° C. for 3 hours and then cooled to room temperature. The reaction mixture was treated with water (4 mL) and 1M HCl (6 mL). The aqueous portion was extracted with dichloromethane (2×30 mL), the organic portions were combined, washed with brine (15 mL), dried (MgSO4) and concentrated. The crude material was purified by silica gel column chromatography utilizing 5% acetone/dichloromethane as the eluent to produce 10 mg of P-577 as a pale viscous oil. 1H NMR (400 MHz, DMSO-d6) δ 1.05 (d, J=6 Hz, 6H), 1.56-1.61 (m, 4H), 3.72 (s, 3H), 3.75 (s, 2H), 4.07-4.12 (m, 2H), 6.38 (d, J=9 Hz, 1H), 6.92 (d, J=8 Hz, 1H), 7.27-7.32 (m, 3H), 7.37 (s, 1H), 7.41-7.47 (m, 2H), 7.95 (d, J=2 Hz, 1H) ppm. MS (APCI+): 425.1 (M+1) LC-MS: 92%

reactant | 5-(3′Chloro-2-fluoro-6-methoxy-biphenyl-3-ylmethyl)-2-fluoro-pyridine | 0.289 mmol, 100 mg | ClC=1C=C(C=CC1)C1=C(C(=CC=C1OC)CC=1C=CC(=NC1)F)F | C19H14ClF2NO
reactant | (2S,5S)-2,5-dimethyl-pyrrolidine | 1.30 mmol, 176 mg | C[C@@H]1N[C@H](CC1)C | C6H13N
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 2.60 mmol, 367 uL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | HCl | 1M, 6 mL | Cl | ClH
solvent | water | 4 mL | O | H2O
product | 5-(3′-Chloro-2-fluoro-6-methoxy-biphenyl-3-ylmethyl)-2-((2S,5S)-2,5-dimethyl-pyrrolidin-1-yl)-pyridine | ClC=1C=C(C=CC1)C1=C(C(=CC=C1OC)CC=1C=CC(=NC1)N1[C@H](CC[C@@H]1C)C)F | C25H26ClFN2O
